US06346534B1
1-[2-(2,5-Dimethyl-3-furyl)-2-oxoethyl]-2-methyl-5-ethoxycarbonylpyrimid-6-one
5-Ethoxycarbonyl-2-methylpyrimid-4-one (3.5 g, 19 mmol) was dissolved in DME (110 mL) and TBAF (28.5 mL, 1 M solution in THF, 28.5 mmol) added dropwise at 0° C. The resulting solution was stirred ten minutes and a solution of 3-bromoacetyl-2,5-dimethylfuran (4.3 g, 20 mmol) in DME (10 mL) was added dropwise. The reaction was stirred at room temperature overnight. The solution was then concentrated in vacuo and partitioned between EtOAc and saturated aqueous NH4Cl. The EtOAc layer was separated and concentrated. The product was purified using flash silica chromatography (EtOAc/hexane=2:8 to 8:2), with the o-alkylated side product eluting at 4:6, and the desired N-alkylated product eluting at 8:2. The N-alkylated product was dried as a yellow solid, isolated in 31% yield; MS: 319 (M+H) and 273.

reactant | 5-Ethoxycarbonyl-2-methylpyrimid-4-one | 19 mmol, 3.5 g | C(C)OC(=O)C=1C(NC(=NC1)C)=O | C8H10N2O3
reactant | TBAF | 28.5 mmol, 1 M, 28.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-bromoacetyl-2,5-dimethylfuran | 20 mmol, 4.3 g | BrCC(=O)C1=C(OC(=C1)C)C | C8H9BrO2
solvent | DME | 110 mL | COCCOC | C4H10O2
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 1-[2-(2,5-Dimethyl-3-furyl)-2-oxoethyl]-2-methyl-5-ethoxycarbonylpyrimid-6-one | 31% yield | CC=1OC(=CC1C(CN1C(=NC=C(C1=O)C(=O)OCC)C)=O)C | C16H18N2O5
